US05362848
Sodium hydride (50% dispersion in mineral oil, 16.10 g. 0.33 mol) was washed twice with hexanes and was suspended in 500 mL of DMF. Then, 3-hydroxymethyl-3-methyloxetane (34.2 g, 0.33 mol) was added dropwise over 45 min while hydrogen gas was evolved and a beige solid precipitated. The mixture was stirred for 30 min and a solution of tetrakis-(bromomethyl)methane (25.0 g, 0.0645 mol) in 250 mL of DMF was added. The mixture was heated to 100° C. for 64 h when 1H NMR analysis of an aliquot showed that the starting halide had been consumed. The mixture was poured into 500 mL of water and extracted with three portions of 200 mL of methylene chloride. The combined organic extracts were washed with 3 portions of 200 mL of water, dried over magnesium sulfate, and evaporated to give an oil. The oil was cooled to -15° C. for 24 h, and the solid that formed was triturated with ether, filtered, and recrystallized from ethanol to give 6.15 g (21.3%) of tetrakis-[(3-methyl-3-oxetanyl)methoxymethyl]methane, mp 108.5°-109.5° C.

reactant | Sodium hydride | 0.33 mol, 16.10 g | [H-].[Na+]
reactant | 3-hydroxymethyl-3-methyloxetane | 0.33 mol, 34.2 g | OCC1(COC1)C | C5H10O2
reactant | hydrogen | [H][H] | H2
reactant | tetrakis-(bromomethyl)methane | 0.0645 mol, 25.0 g | BrCC(CBr)(CBr)CBr | C5H8Br4
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | tetrakis-[(3-methyl-3-oxetanyl)methoxymethyl]methane | 6.15 g, 21.3% | CC1(COC1)COCC(COCC1(COC1)C)(COCC1(COC1)C)COCC1(COC1)C | C25H44O8
